US07678795B2
3-(2-Chloro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine
yellow viscous oil. MS (EI): 258.2 (M+). Prepared from 4,4-dimethyl-cyclopentane-1,2-dione, [2-(2-Chloro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | 4,4-dimethyl-cyclopentane-1,2-dione | CC1(CC(C(C1)=O)=O)C | C7H10O2
reactant | [2-(2-Chloro-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC=C1)Cl | C10H12ClO4P
reactant | hydrazine monohydrate | O.NN
product | 3-(2-Chloro-phenyl)-6,6-dimethyl-6,7-dihydro-5H-cyclopenta[c]pyridazine | ClC1=C(C=CC=C1)C1=CC2=C(N=N1)CC(C2)(C)C | C15H15ClN2
